US07956140B2
Synthesis of the Ligand N,N-diisopropyl-o-toluamidine
A solution of MeMgBr in ether (12.9 mL, 3.0 M, 38.7 mmol) was added to a solution of diisopropylamine (3.91 g, 38.7 mmol) in toluene (60 mL) at 50° C. The mixture was stirred for 1 h and a white precipitate formed. Next, the mixture was cooled to 0° C. and tolunitrile (4.53 g, 38.7 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 16 h subsequently. The mixture was quenched with water (100 mL). The organic phase was separated from the aqueous phase and the latter was extracted with diethylether (150 mL) twice. The combined organic phases were dried over Na2SO4, filtered and the solvents were removed under reduced pressure giving a sticky residue. This residue was triturated with ligroin giving 4.40 g (52%) pure product.

reactant | MeMgBr | C[Mg+].[Br-]
reactant | ether | 38.7 mmol, 3.0 M, 12.9 mL | CCOCC | C4H10O
reactant | diisopropylamine | 38.7 mmol, 3.91 g | C(C)(C)NC(C)C | C6H15N
reactant | tolunitrile | 38.7 mmol, 4.53 g | C=1(C(=CC=CC1)C#N)C | C8H7N
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-diisopropyl-o-toluamidine | C(C)(C)N(C(=N)C=1C(=CC=CC1)C)C(C)C | C14H22N2
